US09120749B2
{4-[4-(2-Aminopropan-2-yl)phenylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone hydrochloride
To a suspension of {4-[4-(2-aminopropan-2-yl)phenylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone (14 mg, 0.028 mmol) in methanol (5 mL) was added HCl in ether (3 drops, 2 M). The resultant solution was concentrated to obtain the desired product as the hydrochloride salt (13 mg) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.31 (s, 1H), 8.24-8.22 (m, 1H), 8.18 (s, 1H), 8.04 (d, J=8.8 Hz, 1H), 7.65 (d, J=9.0 Hz, 2H), 7.49 (d, J=9.0 Hz, 2H), 7.42 (s, 2H), 2.84-2.75 (m, 1H), 1.78 (s, 6H), 1.18-1.09 (m, 4H); ESI MS m/z 506 [C28H25Cl2N3O2+H]+; HPLC 98.5% (AUC), tR=10.80 min.

reactant | {4-[4-(2-aminopropan-2-yl)phenylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 0.028 mmol, 14 mg | NC(C)(C)C1=CC=C(C=C1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C28H25Cl2N3O2
reactant | HCl | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
catalyst | ether | 2 M, 3 drops | CCOCC | C4H10O
product | {4-[4-(2-Aminopropan-2-yl)phenylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone hydrochloride | Cl.NC(C)(C)C1=CC=C(C=C1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | InChI=1S/C28H25Cl2N3O2.ClH/c1-28(2,31)18-6-8-19(9-7-18)33-25-20-11-16(17-12-22(29)27(35)23(30)13-17)5-10-24(20)32-14-21(25)26(34)15-3-4-15;/h5-15,35H,3-4,31H2,1-2H3,(H,32,33);1H
